US04385177
(b) Z-2-(Fur-2-yl)-2-(methoxycarbamoylcyclopent-1-yloxyimino)acetic acid
This compound was prepared from methyl Z-2-(fur-2-yl)-2-(methoxycarbamoylcyclopent-1-yloxyimino)acetate as described in Preparation 7(d). It was obtained as a pale brown foam, of which part was the sodium salt, νmax (Nujol) 3220 (--NH--), 3700-1800 (bonded OH), 1740, 1707 (--CO2H), 1625, 1512 cm-1 (--CONH--, --CO2θ), τ(DMSO d6) 6.4 (--OCH3), 7.7-8.6 (cyclopentyl), 2.18, 3.20, 3.38 (furyl). Yield 87%.

reactant | methyl Z-2-(fur-2-yl)-2-(methoxycarbamoylcyclopent-1-yloxyimino)acetate | O1C(=CC=C1)/C(/C(=O)OC)=N/OC1(CCCC1)C(NOC)=O | C14H18N2O6
reactant | sodium | [Na] | Na
solvent | DMSO | CS(=O)C | C2H6OS
product | Z-2-(Fur-2-yl)-2-(methoxycarbamoylcyclopent-1-yloxyimino)acetic acid | Yield 87% | O1C(=CC=C1)/C(/C(=O)O)=N/OC1(CCCC1)C(NOC)=O | C13H16N2O6
